US09029411B2
A mixture of methyl 3-bromo-4-cyano-5-morpholin-4-ylthiophene-2-carboxylate (0.040 g, 0.12 mmol), p-tolylboronic acid (0.020 g, 0.14 mmol), tetrakis(triphenylphosphine)palladium(0) (0.004 g, 0.004), 2M aqueous K2CO3 solution (0.120 mL, 0.24 mmol) in 1,2-dimethoxyethane/EtOH (8/2) (2 mL) was subjected to MWI at 110° C. for 10 min. The reaction mixture was concentrated; the residue was diluted with water and extracted with DCM. The organic solutions were combined, washed with brine, dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography and triturated with cold MeOH to give methyl 4-cyano-3-(4-methylphenyl)-5-morpholin-4-ylthiophene-2-carboxylate (0.030 g, 83%). LCMS: (AA) ES+ 343.1. 1H NMR (400 MHz, CDCl3) δ: 7.24-7.27 (m, 4H), 3.87-3.89 (m, 4H), 3.69 (s, 3H), 3.60-3.62 (m, 4H) and 2.39 (s, 3H).

reactant | methyl 3-bromo-4-cyano-5-morpholin-4-ylthiophene-2-carboxylate | 0.12 mmol, 0.040 g | BrC1=C(SC(=C1C#N)N1CCOCC1)C(=O)OC | C11H11BrN2O3S
reactant | p-tolylboronic acid | 0.14 mmol, 0.020 g | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
reactant | K2CO3 | 0.24 mmol, 2M, 0.120 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,2-dimethoxyethane EtOH | 2 mL | COCCOC.CCO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.004 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-cyano-3-(4-methylphenyl)-5-morpholin-4-ylthiophene-2-carboxylate | 0.030 g, 83% | C(#N)C=1C(=C(SC1N1CCOCC1)C(=O)OC)C1=CC=C(C=C1)C | C18H18N2O3S
